US09290519B2
Preparation of 8-bromo-3,4-dihydronaphthalen-1(2H)-one
To a solution of 56.0 g (250 mmol) of 8-bromo-1,2,3,4-tetrahydronaphthalen-1-ol in 3500 ml of dichloromethane 265 g (1.23 mol) of PCC was added. The resulting mixture was stirred at room temperature for 5 h, then passed through a silica gel pad (500 ml), and evaporated to dryness. Yield 47.6 g (88%) of a colorless solid. Anal. Calc for C10H9BrO: C, 53.36; H, 4.03. Found: C, 53.44; H, 4.19. 1H NMR (CDCl3): δ 7.53 (m, 1H, 7-H); 7.18-7.22 (m, 2H, 5,6-H); 2.95 (t, J=6.1 Hz, 2H, 4,4′-H); 2.67 (t, J=6.6 Hz, 2H, 2,2′-H); 2.08 (qv, J=6.1 Hz, J=6.6 Hz, 2H, 3,3′-H).

reactant | 8-bromo-1,2,3,4-tetrahydronaphthalen-1-ol | 250 mmol, 56.0 g | BrC=1C=CC=C2CCCC(C12)O | C10H11BrO
reactant | dichloromethane | 1.23 mol, 3500 ml, 265 g | ClCCl | CH2Cl2
reactant | PCC | C=1C=C[NH+]=CC1.[O-][Cr](=O)(=O)Cl
product | 8-bromo-3,4-dihydronaphthalen-1(2H)-one | BrC=1C=CC=C2CCCC(C12)=O | C10H9BrO
